US05216156
2-[(2-Hydroxyethyl)amino]-4,6-bis[(1-octyloxy-2,2,6,6-tetramethylpiperidin-4-yl)oxy]-1,3,5-triazine
The title compound is prepared from the reaction of 2-chloro-4,6-bis[(1-octyloxy-2,2,6,6-tetramethylpiperidin-4-yl)oxy]-1,3,5-triazine with ethanolamine.

reactant | 2-chloro-4,6-bis[(1-octyloxy-2,2,6,6-tetramethylpiperidin-4-yl)oxy]-1,3,5-triazine | ClC1=NC(=NC(=N1)OC1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C)OC1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C | C37H68ClN5O4
reactant | ethanolamine | C(O)CN | C2H7NO
product | 2-[(2-Hydroxyethyl)amino]-4,6-bis[(1-octyloxy-2,2,6,6-tetramethylpiperidin-4-yl)oxy]-1,3,5-triazine | OCCNC1=NC(=NC(=N1)OC1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C)OC1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C | C39H74N6O5
